US08278335B2
Step 5. 1-[(6-Bromopyridin-2-yl)methyl]-N-methyl-1H-1,2,3-triazole-4-carboxamide
Potassium 1-[(6-bromopyridin-2-yl)methyl]-1,2,3-triazole-4-carboxylate (450 mg, 1.40 mmol), HOBT (429 mg, 2.80 mmol), EDC (537 mg, 2.80 mmol), MeNH2.HCl (284 mg, 4.20 mmol), and DIEA (734 μL, 4.20 mmol) were combined in DMF (5.0 mL) and stirred at room temperature for 2 h. Additional HOBT (429 mg, 2.80 mmol), EDC (537 mg, 2.80 mmol), and MeNH2.HCl (284 mg, 4.20 mmol) were added to push the reaction to completion. After another 2 h at room temperature, the solution was diluted with water and extracted with 5:1 CH2Cl2:MeOH (3×). The combined organic layers were washed with brine, dried (MgSO4), and evaporated. Flash chromatography (0-10% MeOH/CH2Cl2) afforded the title compound as a colorless solid. LRMS (APCI) calc'd for C10H11BrN5O [M+H]+: 296, Found: 296.

reactant | Potassium 1-[(6-bromopyridin-2-yl)methyl]-1,2,3-triazole-4-carboxylate | 1.40 mmol, 450 mg | BrC1=CC=CC(=N1)CN1N=NC(=C1)C(=O)[O-].[K+]
reactant | HOBT | 2.80 mmol, 429 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 2.80 mmol, 537 mg
reactant | MeNH2.HCl | 4.20 mmol, 284 mg | CN.Cl
reactant | DIEA | 4.20 mmol, 734 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBT | 2.80 mmol, 429 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 2.80 mmol, 537 mg
reactant | MeNH2.HCl | 4.20 mmol, 284 mg | CN.Cl
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-[(6-Bromopyridin-2-yl)methyl]-N-methyl-1H-1,2,3-triazole-4-carboxamide | BrC1=CC=CC(=N1)CN1N=NC(=C1)C(=O)NC | C10H10BrN5O
